US07507729B2
a) 3,3,3-Trifluoro-propionic acid hydrazide
A solution of 3,3,3-trifluoro-propionic acid methyl ester (24.6 g, 173 mmol) in methanol (173 mL) was treated with hydrazine hydrate (8.4 mL, 173 mmol). The resulting mixture was then heated under reflux for 16 h and filtered. The filtrate was adsorbed on silica, evaporated and chromatographed (SiO2, dichloromethane:methanol=95:5 to 90:10). The title compound (14.2 g, 58%) was obtained as a white solid. MS: m/e=142.1 [M]+.

reactant | 3,3,3-trifluoro-propionic acid methyl ester | 173 mmol, 24.6 g | COC(CC(F)(F)F)=O | C4H5F3O2
reactant | hydrazine hydrate | 173 mmol, 8.4 mL | O.NN
solvent | methanol | 173 mL | CO | CH4O
product | 3,3,3-Trifluoro-propionic acid hydrazide | 14.2 g, 58% | FC(CC(=O)NN)(F)F | C3H5F3N2O
